US09278971B2
3-Iodo-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)Benzamide
3-Iodo-4-methylbenzoyl chloride (0.48 g, 1.7 mmol), prepared from the reaction of 3-iodo-4-methylbenzoic acid and SOCl2 (as previously described), was added to a solution of 4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)aniline (0.47 g, 1.7 mmol), N,N-diisopropylethylamine (0.26 g, 2.0 mmol), and a catalytic amount of DMAP in THF (10 mL). After stirring at rt for 2 h, the reaction was quenched with water. EtOAc was added and the layers separated. The combined organic layers were concentrated to dryness and purified by silica gel chromatography (eluted with 5% MeOH/DCM, MeOH was pre-saturated with ammonia gas), to provide 0.51 g of product as an off-white solid.

reactant | 3-Iodo-4-methylbenzoyl chloride | 1.7 mmol, 0.48 g | IC=1C=C(C(=O)Cl)C=CC1C | C8H6ClIO
reactant | 3-iodo-4-methylbenzoic acid | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | 4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)aniline | 1.7 mmol, 0.47 g | CN1CCN(CC1)CC1=C(C=C(N)C=C1)C(F)(F)F | C13H18F3N3
reactant | N,N-diisopropylethylamine | 2.0 mmol, 0.26 g | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-Iodo-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)Benzamide | 0.51 g | IC=1C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=CC1C | C21H23F3IN3O
